US07867992B2
8-Cyano-1-cyclopropyl-7-[(3RS,5SR)-3,5-dimethylpiperazin-1-yl]-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid-hydrochloride
A solution of 500.0 mg (1.63 mmol) of 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (for preparation see: DE 19854357) and 446.8 mg (3.91 mmol) of cis-2,6-dimethylpiperazine in 50 ml of acetonitrile is stirred over night at 50° C. The solvent is removed completely on a rotary evaporator, the residue is taken up in 50 ml of water and the pH is adjusted to pH 11 with a 1N sodium hydroxide solution (the residue dissolves). The solution is then adjusted to pH 7 with 1N hydrochloric acid. The precipitate is filtered off, washed with water and diethylether and dried under high vacuum. 157 mg of the title compound are obtained. The filtrate is extracted with dichloromethane, the organic phase is concentrated and the residue is purified by RP-HPLC. An additional 351 mg of the title compound are obtained.

reactant | 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.63 mmol, 500.0 mg | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)O)=O)F | C14H8ClFN2O3
reactant | cis-2,6-dimethylpiperazine | 3.91 mmol, 446.8 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 8-Cyano-1-cyclopropyl-7-[(3RS,5SR)-3,5-dimethylpiperazin-1-yl]-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid-hydrochloride | 157 mg | Cl.C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1CC(NC(C1)C)C | InChI=1S/C20H21FN4O3.ClH/c1-10-7-24(8-11(2)23-10)18-14(6-22)17-13(5-16(18)21)19(26)15(20(27)28)9-25(17)12-3-4-12;/h5,9-12,23H,3-4,7-8H2,1-2H3,(H,27,28);1H
